US04877779
2-(1-Hydroxy-1-phenylpent-4-ynyl)-1,3-dithiane.
1,3-Dithiane (3.8 g, 31.6 mmol) was stirred in 120 mL of tetrahydrofuran at -40° C. under argon and 13.2 g (33 mmol) of 2.5M n-BuLi in hexane was added. After 10 minutes the temperature was adjusted to -20° C. and 1.25 hours later 2.27 g (14.36 mmol) of but-3-ynyl phenyl ketone was added as a solid. Stirring was continued for 20 minutes before placing in a freezer at -20° C. for 20 hours. The mixture was then poured onto water, the layers were separated, and the aqueous portion extracted with methylene chloride (3×30 mL). The combined organics were washed with brine, dried (MgSO4) and solvents evaporated at reduced pressure. The residue was chromatographed on 75 g silica (98:2, hexane:EtAc, then 4%, 10%, and 20% EtAc) to give 3.0 g (75%) of product.

reactant | 1,3-Dithiane | 31.6 mmol, 3.8 g | S1CSCCC1 | C4H8S2
reactant | n-BuLi | 33 mmol, 2.5M, 13.2 g | [Li]CCCC
reactant | but-3-ynyl phenyl ketone | 14.36 mmol, 2.27 g | C1(=CC=CC=C1)C(=O)CCC#C | C11H10O
solvent | tetrahydrofuran | 120 mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 2-(1-Hydroxy-1-phenylpent-4-ynyl)-1,3-dithiane | 3.0 g, 75% | OC(CCC#C)(C1=CC=CC=C1)C1SCCCS1 | C15H18OS2
